US09328118B2
A 4 M solution of hydrogen chloride in EtOAc (4.2 mL) was added dropwise to a suspension of 6-{6-[2-(1-ethylpiperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9-methyl-9H-purine-2-carbonitrile (3.9 g) in EtOH (58.5 mL) at room temperature, whereby a solution was obtained. After the solution was concentrated under reduced pressure, the residue was suspended in EtOH (117 mL). The suspension was stirred at 80° C. to obtain a solution, and the solution was cooled to room temperature while stirring. The solution was stirred at room temperature overnight. The precipitated solid was filtered, and the solid was washed with EtOH, whereby 6-{6-[2-(1-ethylpiperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9-methyl-9H-purine-2-carbonitrile monohydrochloride (3.2 g) was obtained as a crystal (heat absorption peak temperature obtained by a TG/DTA analysis: near 220° C.).

reactant | hydrogen chloride | Cl | ClH
reactant | 6-{6-[2-(1-ethylpiperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9-methyl-9H-purine-2-carbonitrile | 3.9 g | C(C)N1CCC(CC1)CCOC1=C(C=C(C=N1)C1=C2N=CN(C2=NC(=N1)C#N)C)C(F)(F)F | C22H24F3N7O
solvent | EtOAc | 4.2 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 58.5 mL | CCO | C2H6O
product | 6-{6-[2-(1-ethylpiperidin-4-yl)ethoxy]-5-(trifluoromethyl)pyridin-3-yl}-9-methyl-9H-purine-2-carbonitrile monohydrochloride | 3.2 g | Cl.C(C)N1CCC(CC1)CCOC1=C(C=C(C=N1)C1=C2N=CN(C2=NC(=N1)C#N)C)C(F)(F)F | InChI=1S/C22H24F3N7O.ClH/c1-3-32-7-4-14(5-8-32)6-9-33-21-16(22(23,24)25)10-15(12-27-21)18-19-20(31(2)13-28-19)30-17(11-26)29-18;/h10,12-14H,3-9H2,1-2H3;1H
